US03979513
4-Methoxy-1'-methyl-10-oxo-9,10-dihydroanthracene-9-spiro-4'-piperidine (1.8 g.), in ethanol (100 ml.) is treated with sodium borohydride (2 g.), allowed to stand at room temperature overnight, then the reaction mixture is diluted with water and extracted with ether. The ether is washed with water, dried (MgSO4) and evaporated to give an oil which is chromatographed on magnesium silicate. Elution with toluene-ethyl acetate gives 10-hydroxy-4-methoxy-1'-methyl-9,10-dihydroanthracene-9-spiro-4'-piperidine, m.p. 149°-151°C. on recrystallisation from aqueous ethanol.

reactant | 4-Methoxy-1'-methyl-10-oxo-9,10-dihydroanthracene-9-spiro-4'-piperidine | 1.8 g | COC1=CC=CC2=C1C(C1=CC=CC=C1C21CCN(CC1)C)=O | C20H21NO2
reactant | sodium borohydride | 2 g | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 10-hydroxy-4-methoxy-1'-methyl-9,10-dihydroanthracene-9-spiro-4'-piperidine | OC1C=2C(=CC=CC2C2(CCN(CC2)C)C2=CC=CC=C12)OC | C20H23NO2
